US08835465B2
3-Methylpiperidine-2,6-dione
A solution of H2SO4 (80 ml), acetic acid (500 ml) and 2-methylpentanedinitrile (128.0 g, 1184 mmol) was stirred at room temperature. An aqueous solution of acetic acid (100 ml in 32 ml water) was then added dropwise. Upon completion of the addition, the reaction was heated to 130° C. for 1 hour. The reaction was then allowed to cool to room temperature and filtered to remove solids, which were washed with acetic acid (100 ml). The filtrate was then concentrated until a residue resulted. This residue was poured into water (0.75 l), and adjusted to pH 5 with Na2CO3. The resulting solid was collected by filtration and washed with cold water to give the title compound (101 g, 67%) which was used without further purification.

reactant | H2SO4 | 80 ml | OS(=O)(=O)O | H2O4S
reactant | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
reactant | 2-methylpentanedinitrile | 1184 mmol, 128.0 g | CC(C#N)CCC#N | C6H8N2
reactant | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 0.75 l | O | H2O
product | 3-Methylpiperidine-2,6-dione | 101 g, 67% | CC1C(NC(CC1)=O)=O | C6H9NO2
